US07115611B2
A] 2-Dimethylaminomethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester
0.102 g (0.273 mmol) of the above (example 45A]) prepared 2-bromomethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester was dissolved in 1.5 ml of acetonitrile and treated with 0.027 g (0.331 mmol) of dimethylamine hydrochloride and 0.080 ml (2 eq.) of triethylamine. After stirring for 2 h at ambient temperature, the reaction mixture was poured onto crashed ice/KHSO4-solution and extracted twice with AcOEt. Washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, AcOEt/MeOH/NEt3=9/1/0.05), produced 0.047 g of pure title compound as off-white crystals.

reactant | 2-bromomethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)CBr)=O | C15H11BrF3NO2
reactant | dimethylamine hydrochloride | 0.331 mmol, 0.027 g | Cl.CNC
reactant | triethylamine | 0.080 ml, 2 eq. | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 2-Dimethylaminomethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | 0.047 g | COC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)CN(C)C)=O | C17H17F3N2O2
